US07135600B2
vii) N2-[(3-{4-[(6-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]butyl}phenyl)sulfonyl]-N2-{[2-(trimethylsilyl)ethoxy]methyl}glycinamide
N2-[(3-{4-[(6-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]but-1-ynyl}phenyl)sulfonyl]-N2-{[2-(trimethylsilyl)ethoxy]methyl}glycinamide (0.09 g) was stirred with platinum oxide (0.023 g) in ethanol (20 ml) under hydrogen for 3.5 h. The catalyst was filtered off with the aid of celite and the filter cake was leached with ethanol. The combined filtrates were evaporated to give the title compound (0.091 g) LCMS RT=3.10 min.

reactant | N2-[(3-{4-[(6-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]but-1-ynyl}phenyl)sulfonyl]-N2-{[2-(trimethylsilyl)ethoxy]methyl}glycinamide | 0.09 g | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNCCCCCCOCCC#CC=2C=C(C=CC2)S(=O)(=O)N(CC(=O)N)COCC[Si](C)(C)C)O)C | C36H55N3O8SSi
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.023 g | [Pt]=O
product | N2-[(3-{4-[(6-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]butyl}phenyl)sulfonyl]-N2-{[2-(trimethylsilyl)ethoxy]methyl}glycinamide | 0.091 g | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNCCCCCCOCCCCC=2C=C(C=CC2)S(=O)(=O)N(CC(=O)N)COCC[Si](C)(C)C)O)C | C36H59N3O8SSi
